### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry/EllipticCurve/Jacobian): implement group operations on point representatives for Jacobian coordinates

### PR DESCRIPTION
**Pull request by Multramate**
Define the analogous secant-and-tangent negation `neg` and addition `add` on `PointRep` over `F`, and lift them to `PointClass`. Define `Point` as a `PointClass` that is nonsingular. Prove in `neg_equiv` and `add_equiv` that these operations preserve the equivalence. Prove in `nonsingular_neg` and `nonsingular_add` that these operations preserve nonsingularity by reducing it to the affine case, and lift these proofs to `PointClass`.

This is the third in a series of four PRs leading to #9405 and is analogous to #9418 

---

- [x] depends on: #9432 
- [x] depends on: #9433 
- [x] depends on: #13060 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean [hunk 1]
```diff
@@ -855,6 +909,313 @@ lemma addY_of_Z_ne_zero {P Q : Fin 3 → F} (hP : W.Equation P) (hQ : W.Equation
...
+
+lemma addXYZ_of_Z_eq_zero_right {P Q : Fin 3 → F} (hQ : W.Nonsingular Q) (hPz : P z ≠ 0)
+    (hQz : Q z = 0) :
+    W.addXYZ P Q = -(Units.mk0 _ (X_ne_zero_of_Z_eq_zero hQ hQz) * Units.mk0 _ hPz) • P :=
+  addXYZ_of_Z_eq_zero_right' hQ.left hQz
+
+lemma addXYZ_of_Y_ne {P Q : Fin 3 → F} (hP : W.Equation P) (hQ : W.Equation Q) (hPz : P z ≠ 0)
+    (hQz : Q z ≠ 0) (hx : P x * Q z ^ 2 = Q x * P z ^ 2) (hy : P y * Q z ^ 3 ≠ Q y * P z ^ 3) :
+    W.addXYZ P Q =
+      -(Units.mk0 _ (sub_ne_zero_of_ne hy) / (Units.mk0 _ hPz * Units.mk0 _ hQz)) • ![1, 1, 0] := by
```
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean:944]: As I said I think it's reasonable to generalize the scalar multiplication to get rid of Units.mk0. This division in `Units F` could be replaced with division in the field F.

Restricting to scalar multiplication by units forces you to state less general results, which I think is bad.

Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean:944]: Oh I'm totally for this, I just wasn't sure before whether I should combine the changes with this PR, but I guess I will.

Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean]: I have extended the scalar multiplication to include non-units in the latest commit, but I think that the equivalence relation must still be on the units e.g. to prove `nonsingular_smul`, so much of the code will now require `IsUnit u`. Overall this increases the code length, because now we have to add the `IsUnit` lemmas, but I think once we refactor `Nonsingular` into the correct definition over a larger class of rings e.g. valuation rings, this will save us some work.

Comment (alreadydone) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean]: Thanks! Yes the equivalence relation needs a **group** action, and only units have inverses.

It seems my suggestion to replace the `Units.mk0` is what makes the code longer, which I regret. By using `Units.mk0` you essentially bundled the nonzero proof inside the statement of the lemma, so you no longer need the nonzero proofs when applying the lemma. Since these lemmas seem to be auxiliary and applied at multiple occasions, it may be wise to keep the original `Units.mk0` statement, and only generalize selected lemmas like in [my branch](https://github.com/leanprover-community/mathlib4/compare/EllipticCurve.Jacobian...EllipticCurve.Jacobian+) which don't increase code length.

I'm not sure it's very useful to generalize from `ne_zero` to `isUnit` for a larger class of rings, and it may be a tedious task to figure out which results generalize. (It might be more useful in the projective case, we'll see.)

File: Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean [hunk 2]
```diff
@@ -665,46 +689,55 @@ lemma dblXYZ_of_Z_eq_zero' {P : Fin 3 → R} (hP : W'.Equation P) (hPz : P z = 0
...
 
 end Doubling
 
 section Addition
 
 /-! ### Addition formulae -/
 
+/-- The unit `u` such that `W.add P Q = u • ![1, 1, 0]` where `P ≠ W.neg P`. -/
+def addU (P Q : Fin 3 → F) : F :=
+  -((P y * Q z ^ 3 - Q y * P z ^ 3) / (P z * Q z))
```
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean:726]: You are missing the condition `P x * Q z ^ 2 = Q x * P z ^ 2` in the docstring.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean [hunk 3]
```diff
@@ -489,22 +498,39 @@ lemma Y_eq_negY_of_Y_eq [NoZeroDivisors R] {P Q : Fin 3 → R} (hQz : Q z ≠ 0)
...
 
 section Doubling
 
 /-! ### Doubling formulae -/
 
+variable (W') in
+/-- The unit associated to the doubling of a 2-torsion point.
+More specifically, the unit `u` such that `W.add P P = u • ![1, 1, 0]` where `P = W.neg P`. -/
+noncomputable def dblU (P : Fin 3 → R) : R :=
+  eval P W'.polynomialX
```
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean:511]: I [once remarked](https://github.com/leanprover-community/mathlib4/pull/9405#pullrequestreview-2072733853) that this expression appears in `dblX` and `dblY` as well. Since you are now introducing a shorthand for it, maybe use it there as well?

File: Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean [hunk 4]
```diff
@@ -855,6 +943,321 @@ lemma addY_of_Z_ne_zero {P Q : Fin 3 → F} (hP : W.Equation P) (hQ : W.Equation
...
+          (W.toAffine.slope (P x / P z ^ 2) (Q x / Q z ^ 2) (P y / P z ^ 3) (Q y / Q z ^ 3)),
+        W.toAffine.addY (P x / P z ^ 2) (Q x / Q z ^ 2) (P y / P z ^ 3)
+          (W.toAffine.slope (P x / P z ^ 2) (Q x / Q z ^ 2) (P y / P z ^ 3) (Q y / Q z ^ 3)), 1] :=
+  (nonsingular_some ..).mpr <| Affine.nonsingular_add ((nonsingular_of_Z_ne_zero hPz).mp hP)
+    ((nonsingular_of_Z_ne_zero hQz).mp hQ) <| by
+      simpa only [div_eq_div_iff (pow_ne_zero _ hPz) (pow_ne_zero _ hQz), ne_eq,
+        ← negY_of_Z_ne_zero hQz]
+
+lemma nonsingular_add {P Q : Fin 3 → F} (hP : W.Nonsingular P) (hQ : W.Nonsingular Q) :
+    W.Nonsingular <| W.add P Q := by
```
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean:1178]: Have you tried the following method of proof: since we have `nonsingular_smul` and `add_smul_of_(not_)equiv` (homogeneity of `add`), if we change P and Q by scalar multiplication by units, the truth values of hP, hQ and the conclusion will remain unchanged, so we can assume `P` and `Q` are of the form `![X,Y,1]` or `![1,1,0]`. This is the approach taken in my notes, and I think it would reduce the need of lemmas for general triples, and only the lemmas that connect to the affine API would be needed. For example, the lemma `add_of_Y_ne'` could be stated with `Px Py Qx Qy : F` rather than `P Q : Fin 3 → F`. To show the bijection between Jacobian.Point and Affine.Point is a group isomorphism, it also suffices to check one representative for each point class.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean [hunk 5]
```diff
@@ -855,6 +943,321 @@ lemma addY_of_Z_ne_zero {P Q : Fin 3 → F} (hP : W.Equation P) (hQ : W.Equation
...
+  rw [addXYZ, addX_smul, addY_smul, addZ_smul]
+  rfl
+
+lemma addXYZ_of_Z_eq_zero_left' {P Q : Fin 3 → R} (hP : W'.Equation P) (hPz : P z = 0) :
+    W'.addXYZ P Q = ![(P x * Q z) ^ 2 * Q x, (P x * Q z) ^ 3 * Q y, P x * Q z * Q z] := by
+  rw [addXYZ, addX_of_Z_eq_zero_left hPz, addY_of_Z_eq_zero_left hP hPz, addZ_of_Z_eq_zero_left hPz]
+
+lemma addXYZ_of_Z_eq_zero_left {P Q : Fin 3 → F} (hP : W.Nonsingular P) (hPz : P z = 0) :
+    W.addXYZ P Q = (P x * Q z) • Q :=
+  addXYZ_of_Z_eq_zero_left' hP.left hPz
```
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean:962]: Why is it necessary to have a version with the scalar multiplication expanded out?

Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean:962]: Because they don't need the assumption that we're working over a field, but I don't know how useful this would be.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean (hunk 2 above)
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean:726]: Thanks.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean (hunk 3 above)
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean:511]: Sure, why not.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean [hunk 6]
```diff
@@ -855,6 +943,321 @@ lemma addY_of_Z_ne_zero {P Q : Fin 3 → F} (hP : W.Equation P) (hQ : W.Equation
...
+    W.add P Q = addU P Q • ![1, 1, 0] := by
+  rw [add, if_neg <| not_equiv_of_Y_ne hy, addXYZ_of_X_eq hP hQ hPz hQz hx]
+
+lemma add_of_Y_ne' {P Q : Fin 3 → F} (hP : W.Equation P) (hQ : W.Equation Q) (hPz : P z ≠ 0)
+    (hQz : Q z ≠ 0) (hx : P x * Q z ^ 2 = Q x * P z ^ 2) (hy : P y * Q z ^ 3 ≠ W.negY Q * P z ^ 3) :
+    W.add P Q = W.dblZ P •
+      ![W.toAffine.addX (P x / P z ^ 2) (Q x / Q z ^ 2)
+          (W.toAffine.slope (P x / P z ^ 2) (Q x / Q z ^ 2) (P y / P z ^ 3) (Q y / Q z ^ 3)),
+        W.toAffine.addY (P x / P z ^ 2) (Q x / Q z ^ 2) (P y / P z ^ 3)
+          (W.toAffine.slope (P x / P z ^ 2) (Q x / Q z ^ 2) (P y / P z ^ 3) (Q y / Q z ^ 3)),
```
[the remark this answers is not in the document]
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean:1150]: Now that we have the projective and Jacobian API, I'm actually inclined to change the affine API to take in tuples `Fin 2 -> R` rather than having an arbitrary order for `x/y1/2` - what do you think?

File: Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean (hunk 1 above)
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean]: We'll stick with this for now, even if it's longer.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean (hunk 5 above)
Comment (alreadydone) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean:984]: But this supposedly also works?
```suggestion
lemma addXYZ_of_Z_eq_zero_left {P Q : Fin 3 → R} (hP : W.Equation P) (hPz : P z = 0) :
    W.addXYZ P Q = (P x * Q z) • Q := by
  rw [smul_fin3, addXYZ, addX_of_Z_eq_zero_left hPz, addY_of_Z_eq_zero_left hP hPz, addZ_of_Z_eq_zero_left hPz]
```

Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean:984]: I guess it does...

File: Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean (hunk 4 above)
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean:1181]: Indeed, this was essentially my approach before I rewrote everything (e.g. check the `nonsingular_add` in [this commit](https://github.com/leanprover-community/mathlib4/pull/9435/commits/fa01869a99ed2fbab2a8018d7b90f0b21bff1372)) - basically I reduced the problem to the affine case using `nonsingular_of_equiv` applied to `add_equiv` applied to the affine lemmas (using `nonsingular_smul` instead just means you need one more `add_smul`). Ultimately I think the current approach is more modular, spreading over more lemmas with short proofs, and the code for `nonsingular_add` is much clearer to me. Having lemmas for a general triple would make the general API easier to use anyway, and as I said above I do prefer taking in `Fin 3 -> F` rather than `Px Py Qx Qy`.

**Review by alreadydone — APPROVED** [review]
Thanks, LGTM
maintainer merge

File: Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean (hunk 6 above)
[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean:1153]: That could be more convenient, we'll see. I may work on the reduction homomorphism during or before the AIM workshop, in which homogenization is involved. To develop the homogenization API I think it's best to take an Equiv `α ≃ Option β`, and in this case we can use [finSuccEquiv](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Logic/Equiv/Fin.html#finSuccEquiv).

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
